US05180742
A solution of ethyl 5-(4-methoxybenzoyl)pentanoate (50 g, 0.19 mole) in ethanol (500 ml) was cooled with ice, and sodium boron hydride (10 g) was added gradually to the solution. After the reaction was allowed to proceed for 1 hour, water (200 ml) and 2N hydrochloric acid (50 ml) were added to the reaction solution, followed by concentration under reduced pressure. The resulting residue was dissolved in ethyl acetate, and the organic layer was washed with water, dried and concentrated under reduced pressure. Methanol (300 ml), water (100 ml) and sodium hydroxide (40 g) were added to the resulting residue, followed by stirring for 2 hours, and the methanol was removed under reduced pressure. The water layer was washed with isopropyl ether and then adjusted to pH 4.0 with hydrochloric acid, followed by extraction with ethyl acetate. The organic layer was washed with water, dried and concentrated under reduced pressure, and the residue was chromatographed on a silica gel column, followed by elution with isopropyl ether-ethyl acetate (1:1) to give firstly 6-ethoxy-6-(4-methoxyphenyl)hexanoic acid (21 g) and then 6-hydroxy-6-(4-methoxyphenyl)hexanoic acid (20 g).

reactant | ethyl 5-(4-methoxybenzoyl)pentanoate | 0.19 mole, 50 g | COC1=CC=C(C(=O)CCCCC(=O)OCC)C=C1 | C15H20O4
reactant | sodium boron hydride | 10 g | B.[Na]
reactant | water | 200 ml | O | H2O
reactant | hydrochloric acid | 2N, 50 ml | Cl | ClH
reactant | ethanol | 500 ml | C(C)O | C2H6O
product | 6-ethoxy-6-(4-methoxyphenyl)hexanoic acid | 21 g | C(C)OC(CCCCC(=O)O)C1=CC=C(C=C1)OC | C15H22O4
